US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-methyl-1H-imidazole-2-carboxamide
To a solution of N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.61 mmol) in N,N-dimethylformamide (4.0 mL) were added 1-methyl-1H-imidazole-2-carboxylic acid (154 mg, 1.22 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (351 mg, 1.83 mmol) and 1-hydroxybenzotriazole (248 mg, 1.83 mmol), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate alone) to give the title compound (31 mg, 12%) as a white powder.

reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.61 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | 1-methyl-1H-imidazole-2-carboxylic acid | 1.22 mmol, 154 mg | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.83 mmol, 351 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.83 mmol, 248 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-methyl-1H-imidazole-2-carboxamide | 31 mg, 12% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2N(C=CN2)C)F)C1 | C21H18FN7O3
